US05834493
i) 3[(5-methoxy-1H-indol-3-yl)methyl]-1-benzyl-pyridinium bromide
Benzyl bromide (8.7 ml; 0.073 mol) was added to a stirring mixture of compound of Description 1 [5-methoxy-3-(pyridin-3-ylmethyl)-1H-indole] (3.5 g; 0.0146 mol) in methyl ethyl ketone (70 ml). The reaction mixture was refluxed for 3 hours. The product precipitated as a yellow solid was filtered and washed with diethyl ether and dried under vacuum. The compound was used as such without further purification.

reactant | Benzyl bromide | 0.073 mol, 8.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5-methoxy-3-(pyridin-3-ylmethyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | C15H14N2O
solvent | methyl ethyl ketone | 70 ml | C(C)C(=O)C | C4H8O
product | 3[(5-methoxy-1H-indol-3-yl)methyl]-1-benzyl-pyridinium bromide | [Br-].COC=1C=C2C(=CNC2=CC1)CC=1C=[N+](C=CC1)CC1=CC=CC=C1 | InChI=1S/C22H21N2O.BrH/c1-25-20-9-10-22-21(13-20)19(14-23-22)12-18-8-5-11-24(16-18)15-17-6-3-2-4-7-17;/h2-11,13-14,16,23H,12,15H2,1H3;1H/q+1;/p-1
